US08633312B2
2-(2-Aminophenylamino)-8-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one (12b)
In accordance with general method O, 0.48 g (1.8 mmol) of 2-chloro-8-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one, 1.05 g (9.7 mmol) of phenylenediamine, 0.04 g of Pd(OAc)2, 0.20 g of phosphine ligand and 1.65 g (17 mmol) of Na—O-tert-butylate are reacted in 10 ml of toluene and 2 ml of tert-BuOH. Purification is carried out by column chromatography (flash; SiO2; hexane 80%/ethyl acetate 20%). Yield: 35%; m.p.: 200° C.

reactant | 2-chloro-8-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 1.8 mmol, 0.48 g | ClC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OC)=O)C=C1 | C16H13ClO2
reactant | phenylenediamine | 9.7 mmol, 1.05 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | phosphine | 0.20 g | P | H3P
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | tert-BuOH | 2 ml | C(C)(C)(C)O | C4H10O
catalyst | Pd(OAc)2 | 0.04 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-(2-Aminophenylamino)-8-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | Yield: 35% | NC1=C(C=CC=C1)NC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OC)=O)C=C1 | C22H20N2O2
